US09399623B2
6-Chloro-2-(3-hydroxy-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexylmethyl)-amide (57)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, and pyrrolidin-3-ol. 1H NMR (400 MHz, DMSO-d6): δ 8.74 (t, J=5.62 Hz, 1H), 7.72 (d, J=9.61 Hz, 1H), 7.52 (dd, J=9.21, 8.20 Hz, 2H), 6.96 (d, J=9.23 Hz, 1H), 4.97-5.01 (m, 1H), 3.55-3.61 (m, 4H), 3.22-3.25 (m, 2H), 2.02-2.04 (m, 3H), 1.73-1.94 (m, 6H), 1.15-1.32 (m, 2H). m/z: 424.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | pyrrolidin-3-ol | N1CC(CC1)O | C4H9NO
product | 6-Chloro-2-(3-hydroxy-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclo hexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)O)F | C21H24ClF2N3O2
